US07312241B2
N-BOC-γ-aminobutyric acid (0.6 g, 3.0 mmol) was added to stirred solution of 3-(3-amino-4-methoxy-phenyl)-3-(3-ethoxy-4-methoxy-phenyl)-acrylonitrile (0.8 g, 2.5 mmol), dicyclohexylcarbodiimide (0.6 g, 3.0 mmol) and 1-hydroxybenzotriazole (0.5 g, 3.7 mmol) in DMF (15 mL). The resulting mixture was stirred at room temperature for 2 days. Ethyl acetate (15 mL) was added and the mixture was filtered. The filtrate was diluted with EtOAc (50 mL) and was washed with water (3×30 mL), brine (30 mL) and dried (MgSO4). Solvent was removed and the residue was purified by flash chromatography (silica gel, CH2Cl2:EtOAc 9:1) to afford N-BOC-4-amino-N-{5-[2-cyano-1-(3-ethoxy-4-methoxy-phenyl)-vinyl]-2-methoxy-phenyl}-butyramide (1.1 g, 89%): 1H NMR (CDCl3) δ 7.95 (b, 1H), 7.32-6.81 (m, 6H), 5.57 (5.59) (s, 1H), 4.06-4.01 (q, 2H), 3.94 (3.91) (s,3H), 3.89 (s, 3H), 3.21-3.18 (m, 2H), 2.45-2.40 (m, 2H), 1.93-1.85 (m, 2H), 1.47-1.42 (t, 3H), 1.42 (s, 9H).

reactant | N-BOC-γ-aminobutyric acid | 3.0 mmol, 0.6 g | C(=O)(OC(C)(C)C)NCCCC(=O)O | C9H17NO4
reactant | 3-(3-amino-4-methoxy-phenyl)-3-(3-ethoxy-4-methoxy-phenyl)-acrylonitrile | 2.5 mmol, 0.8 g | NC=1C=C(C=CC1OC)C(=CC#N)C1=CC(=C(C=C1)OC)OCC | C19H20N2O3
reactant | dicyclohexylcarbodiimide | 3.0 mmol, 0.6 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 1-hydroxybenzotriazole | 3.7 mmol, 0.5 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | N-BOC-4-amino-N-{5-[2-cyano-1-(3-ethoxy-4-methoxy-phenyl)-vinyl]-2-methoxy-phenyl}-butyramide | 1.1 g, 89% | C(=O)(OC(C)(C)C)N(C(CCCN)=O)C1=C(C=CC(=C1)C(=CC#N)C1=CC(=C(C=C1)OC)OCC)OC | C28H35N3O6
